US07291631B2
A mixture of (4-amino-butyl)-carbamic acid tert-butyl ester (0.360 g, 1.91 mmol), acetaldehyde (0.085 g, 1.91 mmol) and K2CO3 (0.264 g, 1.91) in MeOH (5 mL) was stirred for 6 h. The mixture was filtered through a celite cake. The filtrate was cooled at 0° C. and NaBH4 (0.106 g, 2.08 mmol) was added. After the reaction mixture was stirred at 0° C. for 45 min water (20 mL) was added, and the mixture was extracted with CH2Cl2 (3×30 mL). The organic extracts were combined and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (200:10:1 CH2Cl2MeOH/NH4OH), affording (4-ethylamino-butyl)-carbamic acid tert-butyl ester as a colorless oil (0.215 g, 52%).

reactant | (4-amino-butyl)-carbamic acid tert-butyl ester | 1.91 mmol, 0.360 g | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | acetaldehyde | 1.91 mmol, 0.085 g | C(C)=O | C2H4O
reactant | K2CO3 | 0.264 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaBH4 | 2.08 mmol, 0.106 g | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | (4-ethylamino-butyl)-carbamic acid tert-butyl ester | 0.215 g, 52% | C(C)(C)(C)OC(NCCCCNCC)=O | C11H24N2O2
